US04663333
Preparation of N-methyl-N-[2-(4-pyridinyl)ethyl]-2-propenamide
The title compound was prepared according to the method of Example 3 from 4-[β-(methylamino)ethyl]pyridine (4.76 g, 0.035 mole), acryloyl chloride (3.15 g, 0.035 mole) and triethylamine (21 ml) to yield 3.4 g of product, m.p. ca. 129°-132° C.

reactant | 4-[β-(methylamino)ethyl]pyridine | 0.035 mole, 4.76 g | CNCCC1=CC=NC=C1 | C8H12N2
reactant | acryloyl chloride | 0.035 mole, 3.15 g | C(C=C)(=O)Cl | C3H3ClO
solvent | triethylamine | 21 ml | C(C)N(CC)CC | C6H15N
product | N-methyl-N-[2-(4-pyridinyl)ethyl]-2-propenamide | CN(C(C=C)=O)CCC1=CC=NC=C1 | C11H14N2O
